US06107301
A mixture of 4.00 g of 1(2-bromo-4-isopropylphenyl)-3-cyano-4,6-dimethyl-7-azaindole and 40 mL of 65% sulfuric acid was refluxed for one hour. The solution was cooled and poured onto ice. Conc. ammonium hydroxide was added until the mixture was alkaline to pH paper. The mixture was extracted with ethyl acetate. The solution was dissolved in 60:40 hexane-ethyl acetate and passed through a short column of silica gel. The eluate was evaporated, and the residue was crystallized from 20 mL of hexane to give 2.45 g (66% yield) of 1-(2-bromo-4-isopropylphenyl)-4,6-dimethyl-7-azaindole. Mass spec: (m+H)+ =343.0818; calculated, 343.0810. Rf =0.57 on silica gel with 70:30 hexane-ethyl acetate.

reactant | 1(2-bromo-4-isopropylphenyl)-3-cyano-4,6-dimethyl-7-azaindole | 4.00 g | BrC1=C(C=CC(=C1)C(C)C)N1C=C(C2=C(C=C(N=C12)C)C)C#N | C19H18BrN3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 1-(2-bromo-4-isopropylphenyl)-4,6-dimethyl-7-azaindole | 2.45 g, 66% yield | BrC1=C(C=CC(=C1)C(C)C)N1C=CC2=C(C=C(N=C12)C)C | C18H19BrN2
